US09422312B2
Step 1: 6-Chloro-5-iodo-2-(methylsulfonyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine
6-Chloro-5-iodo-2-(methylsulfonyl)-1H-imidazo[4,5-b]pyridine (for preparation see WO 2012116145; 1.5 g) and triethylamine (875 μL) are dissolved in tetrahydrofurane (12 mL), cooled to 0° C. and treated with (2-(chloromethoxy)ethyl)trimethylsilane (SEM-CI; 890 μL). The mixture is stirred for 30 minutes while warming to room temperature. Then the mixture is partitioned between saturated aqueous NH4Cl and ethylacetate. The organic phase is washed with water and brine. After drying (MgSO4) the solvents are evaporated in vacuo to give the title compound. LC (method 1): tR=1.22 min; Mass spectrum (ESI+): m/z=488 [M+H]+.

reactant | 6-Chloro-5-iodo-2-(methylsulfonyl)-1H-imidazo[4,5-b]pyridine | 1.5 g | ClC=1C=C2C(=NC1I)N=C(N2)S(=O)(=O)C | C7H5ClIN3O2S
reactant | triethylamine | 875 μL | C(C)N(CC)CC | C6H15N
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 890 μL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | tetrahydrofurane | 12 mL | O1CCCC1 | C4H8O
product | 6-Chloro-5-iodo-2-(methylsulfonyl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazo[4,5-b]pyridine | ClC=1C=C2C(=NC1I)N(C(=N2)S(=O)(=O)C)COCC[Si](C)(C)C | C13H19ClIN3O3SSi
